US06664422B1
A solution of 140.2 g (0.80 mol) of 1-(2,4-difluoro-phenyl)-propane-2-one in 550 g of methylcyclohexane is warmed up to 30-35° C. Over a period of 2 hours 96.6 g (0.80 mol) of isoamyl nitrite is added while a slow stream of dry hydrogen chloride is fed subsurface into the reactor. Following the end of the addition the batch is stirred for 15 minutes at 30-35° C. before the suspension is cooled to 0° C. The product is isolated by filtration and the filter cake is washed with 150 g of methylcyclohexane at 0° C.: 146.9 g of (E)-1-(2,4-difluoro-phenyl)-propane-1,2-dione 1-oxime (mp. 133-135° C.) are obtained in 89.5% yield.

reactant | 1-(2,4-difluoro-phenyl)-propane-2-one | 0.80 mol, 140.2 g | FC1=C(C=CC(=C1)F)CC(C)=O | C9H8F2O
reactant | isoamyl nitrite | 0.80 mol, 96.6 g | N(=O)OCCC(C)C | C5H11NO2
reactant | hydrogen chloride | Cl | ClH
solvent | methylcyclohexane | 550 g | CC1CCCCC1 | C7H14
product | (E)-1-(2,4-difluoro-phenyl)-propane-1,2-dione 1-oxime | 146.9 g, 89.5% yield | FC1=C(C=CC(=C1)F)\C(\C(C)=O)=N/O | C9H7F2NO2
